US07348438B2
5,6-Dichloro-1-(4-fluoro-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (301 mg) in DMF (5 mL) was added potassium carbonate powder (298 mg) and 4-fluorobenzyl bromide (841 mg). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a peach colored solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 301 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 298 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl bromide | 841 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-(4-fluoro-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=CC=C(C=C2)F)C=C1Cl | C16H10Cl2F4N2
